US07223753B2
4-(6-Pyridin-3-yl-pyridazin-3-yl)-1,4-diazabicyclo[3.2.2]nonane fumaric acid salt (Compound 2)
A mixture of 4-(6-bromo-pyridazin-3-yl)-1,4-diazabicyclo[3.2.2]nonane (0.49 g, 1.7 mmol), diethyl-3-pyridylborane (0.38 g, 2.6 mmol), aqueous potassium carbonate (2.6 ml, 2M), palladium(0)tetrakistriphenylphosphine (59 mg, 0.051 mmol), 1,3-propandiol (0.37 ml, 5.1 mmol) and dioxane (5 ml) was stirred at reflux for 15 hours. The mixture was evaporated. Aqueous sodium hydroxide (10 ml, 4M) was added. The mixture was extracted with dichloromethane (3×20 ml). Chromatography on silica gel with dichloromethane, 10% methanol and 1% aqueous ammonia as solvent gave the title compound as an oil. Yield 0.10 g, 21%.

reactant | 4-(6-bromo-pyridazin-3-yl)-1,4-diazabicyclo[3.2.2]nonane | 1.7 mmol, 0.49 g | BrC1=CC=C(N=N1)N1CCN2CCC1CC2 | C11H15BrN4
reactant | diethyl-3-pyridylborane | 2.6 mmol, 0.38 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | potassium carbonate | 2M, 2.6 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-propandiol | 5.1 mmol, 0.37 ml | C(CCO)O | C3H8O2
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-(6-Pyridin-3-yl-pyridazin-3-yl)-1,4-diazabicyclo[3.2.2]nonane fumaric acid salt | C(\C=C\C(=O)O)(=O)O.N1=CC(=CC=C1)C1=CC=C(N=N1)N1CCN2CCC1CC2 | InChI=1S/C16H19N5.C4H4O4/c1-2-13(12-17-7-1)15-3-4-16(19-18-15)21-11-10-20-8-5-14(21)6-9-20;5-3(6)1-2-4(7)8/h1-4,7,12,14H,5-6,8-11H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
